US06979690B2
Step 1. 1,1-Dimethylethyl 4-(3-{6-[(2,2-dimethylpropanoyl)amino]-2-fluoro-3-pyridinyl}-3-hydroxypropyl)-1-piperidinecarboxylate
To a solution of N-(6-fluoro-2-pyridinyl)-2,2-dimethylpropanamide (Turner, James A., J. Org. Chem., 1983, 48, 3401–3408, 1.15 g, 5.87 mmol) in tetrahydrofuran (15 ml) was added dropwise a solution of n-butyllitium (8.1 ml, 12.9 mmol) at −78° C. over 10 min., and the mixture was stirred at 0° C. for 1 h. After cooling to −78° C., a solution of 1,1-dimethylethyl 4-(3-oxopropyl)-1-piperidinecarboxylate (Keenan, Richard M. et. al, J. Med. Chem., 1999, 42, 545–559, 1.70 g, 7.04 mmol) in tetrahydrofuran (5 ml) was added to the mixture. After stirring for 0.5 h, the mixture was allowed to warm up to room temperature and stirred for further 2 h. The mixture was quenched with water (20 ml) and extracted with ethyl acetate (100 ml). The organic layer was washed with brine (50 ml) and dried over magnesium sulfate. Removal of solvent gave brown oily residue, which was chromatographed on a column of silica gel eluting with ethyl acetate/hexane (2:1) to afford 0.86 g (34%) of the title compound as a pale yellow amorphous solid.

reactant | N-(6-fluoro-2-pyridinyl)-2,2-dimethylpropanamide | 5.87 mmol, 1.15 g | FC1=CC=CC(=N1)NC(C(C)(C)C)=O | C10H13FN2O
reactant | n-butyllitium | 12.9 mmol, 8.1 ml | C(CCC)[Li]
reactant | 1,1-dimethylethyl 4-(3-oxopropyl)-1-piperidinecarboxylate | 7.04 mmol, 1.70 g | O=CCCC1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-(3-{6-[(2,2-dimethylpropanoyl)amino]-2-fluoro-3-pyridinyl}-3-hydroxypropyl)-1-piperidinecarboxylate | 0.86 g, 34% | CC(C(=O)NC1=CC=C(C(=N1)F)C(CCC1CCN(CC1)C(=O)OC(C)(C)C)O)(C)C | C23H36FN3O4
